US07262182B2
3-[[2-[[Bis[bis(2-chloroethyl)amino]phosphinyl]oxy]ethyl]thio]-N-tert-butoxycarbonyl-L-alanine, 5.0 g (8.4 mmol), prepared as in Synthetic Example 2, was dissolved in 35 mL dichloromethane, and 5.3 mL (42 mmol) chlorotrimethyl silane added with stirring at 0° C., followed by 80 mL methanol. With continued stirring, the mixture was allowed to warm to room temperature, then stirred overnight. The solvents were then removed under vacuum to give a light yellow oil. This was dissolved in ethyl acetate and precipitated with diethyl ether. Filtration and concentration of the filtrate gave two fractions of 3-[[2-[[bis[bis(2-chloroethyl)amino]phosphinyl]oxy]ethyl]thio]-L-alanine methyl ester, totaling 4.87 g. Purity (96%) and identity were verified by ELSD and LC-MS (m/z 508 (M+2+H)+).

reactant | 3-[[2-[[Bis[bis(2-chloroethyl)amino]phosphinyl]oxy]ethyl]thio]-N-tert-butoxycarbonyl-L-alanine | ClCCN(CCCl)P(=O)(OCCSC[C@H](NC(=O)OC(C)(C)C)C(=O)O)N(CCCl)CCCl | C18H34Cl4N3O6PS
reactant | chlorotrimethyl silane | 42 mmol, 5.3 mL | Cl[Si](C)(C)C | C3H9ClSi
reactant | methanol | 80 mL | CO | CH4O
solvent | dichloromethane | 35 mL | ClCCl | CH2Cl2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 3-[[2-[[bis[bis(2-chloroethyl)amino]phosphinyl]oxy]ethyl]thio]-L-alanine methyl ester | COC([C@@H](N)CSCCOP(=O)(N(CCCl)CCCl)N(CCCl)CCCl)=O | C14H28Cl4N3O4PS
